US06326510B1
(a) Allyl 3-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloyloxy]benzoate
In a similar manner to that of Example 1(d), by reaction of 2.8 g (10 mmol) of 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloyl chloride with 1.8 g (10 mmol) of allyl 3-hydroxybenzoate, 2.6 g (62%) of the expected allyl ester are obtained in the form of a colourless oil.

reactant | 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloyl chloride | 10 mmol, 2.8 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=CC(=O)Cl)C | C17H21ClO
reactant | allyl 3-hydroxybenzoate | 10 mmol, 1.8 g | OC=1C=C(C(=O)OCC=C)C=CC1 | C10H10O3
product | Allyl 3-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)acryloyloxy]benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=CC(=O)OC=1C=C(C(=O)OCC=C)C=CC1)C | C27H30O4
